US07319152B2
5-(3,5-dimethylisoxazol-4-yl)-3,3-dimethylindan-1-one
The title compound was prepared from trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester and 3,5-dimethylisoxazole-4-boronic acid according to the coupling procedure described in example 21. MS m/z 256; HRMS: calcd for C16H17NO2+H+, 256.13321; found (ESI, [M+H]+), 256.1343.

reactant | trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester | CC1(CC(C2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)=O)C | C12H11F3O4S
reactant | 3,5-dimethylisoxazole-4-boronic acid | CC1=NOC(=C1B(O)O)C | C5H8BNO3
product | 5-(3,5-dimethylisoxazol-4-yl)-3,3-dimethylindan-1-one | CC1=NOC(=C1C=1C=C2C(CC(C2=CC1)=O)(C)C)C | C16H17NO2
